US08071592B2
1-(2-{4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinyl}ethyl)-8-ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one Dihydrochloride
1-[2-(4-amino-1-piperidinyl)ethyl]-8-ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one (0.117 g, 0.368 mmol) and 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde (0.061 g, 0.368 mmol) were dissolved in CHCl3 (2 ml) and MeOH (0.2 ml) at rt under argon. NaBH(OAc)3 (0.234 g, 1.10 mmol) was added and the reaction was allowed to stir at rt for 16 h. After which it was purified by chromatography on silica gel using a 0-30% MeOH in DCM gradient to give the free base of the title compound as a clear oil (0.045 g, 26%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-8-ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one | 0.368 mmol, 0.117 g | NC1CCN(CC1)CCN1C(C=CC2=NC=C(C(=C12)CC)F)=O | C17H23FN4O
reactant | 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde | 0.368 mmol, 0.061 g | N1=NC(=CC2=C1OCCO2)C=O | C7H6N2O3
reactant | MeOH | 0.2 ml | CO | CH4O
reactant | NaBH(OAc)3 | 1.10 mmol, 0.234 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | CHCl3 | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-{4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinyl}ethyl)-8-ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one Dihydrochloride | 0.045 g, 26% | Cl.Cl.N1=NC(=CC2=C1OCCO2)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C(=C21)CC)F)=O | InChI=1S/C24H29FN6O3.2ClH/c1-2-18-19(25)15-27-20-3-4-22(32)31(23(18)20)10-9-30-7-5-16(6-8-30)26-14-17-13-21-24(29-28-17)34-12-11-33-21;;/h3-4,13,15-16,26H,2,5-12,14H2,1H3;2*1H
